US07829560B2
A mixture of 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide (200 μmol, 1 eq.), cesium carbonate (300 μmol, 1.5 eq), and piperidine (300 μmol, 1.5 eq.) is suspended in anhydrous dioxane (2 ml) in a 2-dram vial. To the heterogeneous mixture is added bis(tri-t-butylphosphine)palladium(0) (5 mg, 5 mol %). The mixture is heated and agitated for 12 hours. The mixture is cooled to room temperature, filtered and concentrated. The residue is purified using reverse phase conditions (5:95; AcCN:H2O) to give N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-piperidin-1-yl-benzamide. Mp: 147-148° C. 1H NMR (300 MHz, DMSO-d6) δ 10.16 (s, 1H), 8.22 (m, 1H), 7.87 (m, 1H), 7.60 (s, 1H), 7.55 (m, 2H), 7.47 (m, 3H), 7.17 (d, 1H), 7.04 (d, 1H, J=8.7), 4.33 (t, 2H, J=5.7), 3.62 (t, 4H, J=4.5), 3.32 (m, 4H), 2.90 (t, 2H, J=5.7), 2.58 (m, 4H), 1.65 (m, 4H), 1.57 (m, 2H). MS: 460.2 (M+1).

reactant | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | 200 μmol, 1 eq. | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
reactant | cesium carbonate | 300 μmol, 1.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | piperidine | 300 μmol, 1.5 eq. | N1CCCCC1 | C5H11N
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | bis(tri-t-butylphosphine)palladium(0) | 5 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-piperidin-1-yl-benzamide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC=C1)N1CCCCC1)=O | C28H33N3O3
